US07507740B2
Production of ethyl 5-amino-2-phenoxybenzoate
A mixture of ethyl 2-fluoro-5-nitrobenzoate (1.07 g), phenol (565 mg), potassium carbonate (1.38 g) and N,N-dimethylformamide (20 mL) was stirred at 80° C. for 4 hrs. The reaction mixture was concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent, ethyl acetate:hexane=20:80→30:70). The object fraction was concentrated under reduced pressure and ethanol (20 mL) and 10% palladium on carbon (1.5 g) were added to the residue (1.54 g). The mixture was stirred overnight under a hydrogen stream. The catalyst was filtered off, and the filtrate was concentrated. The obtained residue was purified by silica gel column chromatography (eluent, ethyl acetate:hexane=20:80→50:50) and recrystallized from diisopropyl ether-hexane to give the title compound (1.07 g) as a pale-brown powder.

reactant | ethyl 2-fluoro-5-nitrobenzoate | 1.07 g | FC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | phenol | 565 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | ethyl 5-amino-2-phenoxybenzoate | 1.07 g | NC=1C=CC(=C(C(=O)OCC)C1)OC1=CC=CC=C1 | C15H15NO3
